US09403798B2
4-(4-Hydroxy-4-phenylpiperidin-1-yl)-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one
An N,N-dimethylformamide suspension (1.4 mL) of a mixture of 4-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one synthesized in Reference Synthesis Example 22a and 4-(4-hydroxy-4-phenylpiperidin-1-yl)-1,3,5-triazin-2(1H)-one (140 mg), [3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate (282 mg, 0.91 mmol) synthesized in Reference Synthesis Example 15, and potassium carbonate (252 mg, 1.83 mmol) was stirred at 80° C. for 3 hours. After completion of the reaction, water was added thereto and extraction with ethyl acetate from the resultant mixture was performed. The obtained organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/4 (v/v)) and preparative high-performance liquid chromatography to obtain the title compound (14 mg, yield 6.8%) in Reference Synthesis Example 91a and the title compound (7.4 mg, yield 3.9%) in Reference Synthesis Example 91b.

reactant | 4-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one | ClC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(NC=N1)=O)O | C14H15ClN4O2
reactant | 4-(4-hydroxy-4-phenylpiperidin-1-yl)-1,3,5-triazin-2(1H)-one | 140 mg | OC1(CCN(CC1)C1=NC(NC=N1)=O)C1=CC=CC=C1 | C14H16N4O2
reactant | [3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate | 0.91 mmol, 282 mg | CC1=CC=C(C=C1)S(=O)(=O)OCN1N=C(C=C1)C(F)(F)F | C12H11F3N2O3S
reactant | potassium carbonate | 1.83 mmol, 252 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 1.4 mL | CN(C=O)C | C3H7NO
product | 4-(4-Hydroxy-4-phenylpiperidin-1-yl)-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one | 14 mg, yield 6.8% | OC1(CCN(CC1)C1=NC(N(C=N1)CN1N=C(C=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C19H19F3N6O2
